US05563163
Reaction of 2-ethenylbenzoic acid with thionyl chloride affords 2-ethenylbenzoyl chloride, which on reaction with diethylamine, affords 2-ethenyl-N,N-diethylbenzamide. Reaction of the latter with s-butyl lithium and reaction of the resulting lithium salt with sulfur dioxide followed by sodium hydroxylamine-O-sulfonate affords 2-ethenyl-6-aminosulfonyl-N,N-diethylbenzamide, which, on heating in glacial acetic acid, affords 4-ethenylsaccharin.

reactant | 2-ethenylbenzoic acid | C(=C)C1=C(C(=O)O)C=CC=C1 | C9H8O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-ethenylbenzoyl chloride | C(=C)C1=C(C(=O)Cl)C=CC=C1 | C9H7ClO
